US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-5-fluoro-benzothiazole-6-sulfonic acid amide (574-14):
The title compound (30 mg) was prepared in two steps from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-5-fluorobenzothiazole-6-sulfonic acid, which had been derived from the chlorosulfonation of 90 mg of 4-(5-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine, and a solution of excess ammonia dissolved in ethanol. MS (m/z, ES+): 328.0 (M+1, 100%). Yield=25%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-5-fluorobenzothiazole-6-sulfonic acid | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=C(C(=C2)S(=O)(=O)O)F | C11H9FN4O3S2
reactant | 4-(5-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 90 mg | FC=1C=CC2=C(N=C(S2)C2=C(NN=C2C)N)C1 | C11H9FN4S
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-5-fluoro-benzothiazole-6-sulfonic acid amide | 30 mg, Yield=25% | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=C(C(=C2)S(=O)(=O)N)F | C11H10FN5O2S2
